US05576324
2-[4-(2-Methoxyphenyl)-1-piperazinomethyl]-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one.
A mixture of 2-bromomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (3.824 g) and 1-(2-methoxyphenyl)piperazine (5.000 g) was stirred in a hot bath at 150° C. in the stream of argon gas for 1 hour. The reaction product was dissolved in a solvent mixture of chloroform and methanol (5:1), and washed with sodium bicarbonate water, and water in this order. After dried and condensed, n-hexane was added to the residue, and the mixture was allowed to stand. As a result, 4.349 g of a free base of the title compound was obtained as pale yellow flakes (mp.: 245°-247° C. (dec.)).

reactant | 2-bromomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 3.824 g | BrCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C13H12BrNO2
reactant | 1-(2-methoxyphenyl)piperazine | 5.000 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | 2-[4-(2-Methoxyphenyl)-1-piperazinomethyl]-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | Yield: 82.5% | COC1=C(C=CC=C1)N1CCN(CC1)CC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C24H27N3O3
